US06787534B2
2-(3-Nitrophenyl)propan-1-ol
In ethanol (100 ml) was dissolved 7.531 g of 2-(3-nitrophenyl)propanal. Under ice-cooling, sodium borohydride (1.9 g) was added thereto, followed by stirring at room temperature for 1 hour. To the mixture was added brine, followed by extracting with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and the solvent was evaporated. The resulting residue was purified by silica gel column, to give the title compound (6.275 g, 57.19% in 3 steps) as a brown oil.

reactant | 2-(3-nitrophenyl)propanal | 7.531 g | [N+](=O)([O-])C=1C=C(C=CC1)C(C=O)C | C9H9NO3
reactant | sodium borohydride | 1.9 g | [BH4-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | brine | [Cl-].[Na+].O
product | 2-(3-Nitrophenyl)propan-1-ol | 6.275 g, 57.19% | [N+](=O)([O-])C=1C=C(C=CC1)C(CO)C | C9H11NO3
